US06861438B2
Ethyl 2-formyl-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate
Methyl iodide (1.2 mL, 19.3 mmol) was added to a mixture of ethyl 2-formyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate (3.0 g, 11.9 mmol), potassium carbonate (2.5 g, 18.1 mmol) in DMF (30 mL) at 0° C. After the addition of methyl iodide, the mixture was stirred at room temperature for 1 hr. The mixture was diluted with water (40 mL), stirred at room temperature for 15 minutes, and then filtered. The collected solid was washed with water and dried in vacuo, leaving a solid (1.3 g, 41%). The aqueous phase was extracted with methylene chloride (2×50 mL). The organic layers were combined, washed with water (50 mL) and brine (50 mL), and dried over magnesium sulfate. Removal of the solvent gave a second crop of product (0.34 g).

reactant | Methyl iodide | 19.3 mmol, 1.2 mL | CI | CH3I
reactant | ethyl 2-formyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate | 11.9 mmol, 3.0 g | C(=O)C1=CC=2NC=C(C(C2S1)=O)C(=O)OCC | C11H9NO4S
reactant | potassium carbonate | 18.1 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | 40 mL | O | H2O
product | Ethyl 2-formyl-4-methyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxylate | 1.3 g, 41% | C(=O)C1=CC=2N(C=C(C(C2S1)=O)C(=O)OCC)C | C12H11NO4S
